US04517185
4,5-Bis-(4-chlorophenyl)-5-hydroxy-2-thioxo-3-pyrroline-3-carbonitrile
A suspension of 22.3 g. 4,4'-dichlorobenzil, 6.5 g. 2-cyanothioacetamide, 20 drops of piperidine and 200 ml. chloroform is stirred for 20 hours at ambient temperature. The yellow precipitate obtained is filtered off with suction, well washed with chloroform and dried. There are obtained 22.0 g. of the desired compound in the form of yellow crystals; m.p. 213° C. (decomp.).

reactant | 4,4'-dichlorobenzil | ClC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
reactant | 2-cyanothioacetamide | C(#N)CC(=S)N | C3H4N2S
catalyst | piperidine | 20 drops | N1CCCCC1 | C5H11N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4,5-Bis-(4-chlorophenyl)-5-hydroxy-2-thioxo-3-pyrroline-3-carbonitrile | ClC1=CC=C(C=C1)C1=C(C(NC1(O)C1=CC=C(C=C1)Cl)=S)C#N | C17H10Cl2N2OS
